US05238939
A mixture of 8,6 of 1-(2-chloroethyl)-1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran, 8 g of 1-[3,3-bis(4-fluorophenyl)propyl]piperazine, 5,2 g of potassium carbonate and 0,4 g of potassium iodide in 100 ml of dimethylformamide was refluxed for 4 h. Water was added and the base was extracted twice with ethyl acetate. After washing, drying and evaporation the difumarate was prepared in absolute ethanol to yield 13,2 g (61,2%) of 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]-4-[3,3-bis-(4-fluorophenyl)propyl]piperazine (E)-2-butenedioate (1:2) salt.

reactant | 1-(2-chloroethyl)-1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran | ClCCC1(OCCC2=C1C=C(C(=C2)OC)OC)CC | C15H21ClO3
reactant | 1-[3,3-bis(4-fluorophenyl)propyl]piperazine | 8 g | FC1=CC=C(C=C1)C(CCN1CCNCC1)C1=CC=C(C=C1)F | C19H22F2N2
reactant | potassium carbonate | 5,2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0,4 g | [I-].[K+]
reactant | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 1-[2-(1-ethyl-3,4-dihydro-6,7-dimethoxy-1H-2-benzopyran-1-yl)ethyl]-4-[3,3-bis-(4-fluorophenyl)propyl]piperazine (E)-2-butenedioate | 13,2 g, 61,2% | C(\C=C\C(=O)O)(=O)O.C(C)C1(OCCC2=C1C=C(C(=C2)OC)OC)CCN2CCN(CC2)CCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F | InChI=1S/C34H42F2N2O3.C4H4O4/c1-4-34(31-24-33(40-3)32(39-2)23-27(31)14-22-41-34)15-17-38-20-18-37(19-21-38)16-13-30(25-5-9-28(35)10-6-25)26-7-11-29(36)12-8-26;5-3(6)1-2-4(7)8/h5-12,23-24,30H,4,13-22H2,1-3H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
